US07163940B2
A mixture of 4-[7-(butylamino)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinethiolate (2.87 g, 6.9 mmol) in 50 mL water was treated with iodomethane (0.86 mL, 13.8 mmol) and sodium hydroxide (4.1 mL, 5 N aqueous solution) and allowed to stir at room temperature for 4 hours. The mixture was diluted with additional water and extracted with dichloromethane. The organic layers were washed with brine, dried over magnesium sulfate and concentrated. Flash column chromatography eluting with 9:1 hexanes-ethyl acetate afforded N-butyl-2-(4-fluorophenyl)-3-[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine (1.64 g, 56%) as a yellow foam. 1H NMR (CDCl3): δ 8.15 (d, 1H), 7.73 (d, 1H), 7.56 (m, 2H), 7.33 (t, 1H), 7.13 (t, 2H), 6.62 (d, 1H), 6.02 (m, 2H), 3.35 (q, 2H), 2.55 (s, 3H), 1.76–1.41 (m, 4H), 0.95 (t, 3H); 19F NMR (CDCl3): δ −112.75; MS m/z 408 (M+1).

reactant | 4-[7-(butylamino)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinethiolate | 6.9 mmol, 2.87 g | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)[S-])C2=CC=C(C=C2)F
reactant | iodomethane | 13.8 mmol, 0.86 mL | IC | CH3I
reactant | sodium hydroxide | 5 N, 4.1 mL | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | N-butyl-2-(4-fluorophenyl)-3-[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine | 1.64 g, 56% | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)F | C22H22FN5S
